US09029409B2
To a stirred solution of 4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)benzoic acid (0.1 g, 0.215 mmol) in DMF (10 mL) was added HATU (0.123 g, 0.323 mmol) and DIEA (0.055 g, 0.43 mmol). The reaction mixture was stirred at RT for about 10 min. Ammonia solution (3 mL) was added and the reaction mixture stirred for about another 2 h. The reaction mixture was diluted with ice cold water (20 mL). The solid which was obtained was filtered, washed with water and dried under vacuum to afford 6-(5-(4-carbamoylphenyl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide (0.05 g), (50%) as an off white solid. LC/MS (Table 1, Method c) R1=4.48 min. MS m/z: 464.2 (M+H)+.

reactant | 4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)benzoic acid | 0.215 mmol, 0.1 g | FC1=C(C=C(CNC(=O)C2=CC(=NC(=N2)C)C2=NOC(C2)C2=CC=C(C(=O)O)C=C2)C=C1)OC | C24H21FN4O5
reactant | HATU | 0.323 mmol, 0.123 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.43 mmol, 0.055 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Ammonia | 3 mL | N | H3N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(5-(4-carbamoylphenyl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 0.05 g, 50% | C(N)(=O)C1=CC=C(C=C1)C1CC(=NO1)C1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC | C24H22FN5O4
